Klasse B versterker met OPAMP terugkoppeling
VPOS 8 0 DC +15V
VNEG 9 0 DC -15V
VS3 20 0 DC 0 SIN(0V 5VPEAK 10KHZ)
Q21 8 23 22 QNPN
Q22 9 23 22 QPNP
RL3 22 0 100
XOpAmp 20 22 8 9 23 8 opamp
* DEVICE MODELS
.model QNPN NPN(BF=50)
.model QPNP PNP(BF=50)
.model DNOM D()