*Rev-B, March-2010
*Modified notes
*
*//////////////////////////////////////////////////////////////////////
* (C) National Semiconductor, Corporation.
* Models developed and under copyright by:
* National Semiconductor, Corporation.  
*/////////////////////////////////////////////////////////////////////
* Legal Notice:  
* The model may be copied, and distributed without any modifications;
* however, reselling or licensing the material is illegal.
* We reserve the right to make changes to the model without prior notice. 
* Pspice Models are provided "AS IS, WITH NO WARRANTY OF ANY KIND" 
*////////////////////////////////////////////////////////////////////
* For more information, and our latest models,
* please visit the models section of our website at
*       http://www.national.com/models/
*////////////////////////////////////////////////////////////////////
* BEGIN LMV981 MODEL
* MODEL TEMPERATURE RANGE IS -40 C TO +125 C, NOT ALL PARAMETERS TRACK THOSE 
* OF THE REAL PART VS TEMPERATURE
* FEATURES:
* OPEN LOOP GAIN AND PHASE, INPUT BIAS CURRENT, INPUT CAPACITANCE
* INPUT COMMON MODE VOLT RANGE, RAIL TO RAIL INPUT STAGE, WITH OFFSET TRANSITION
* INPUT CLAMPS TO RAILS,  CMRR WITH FREQUENCY EFFECTS, PSRR WITH FREQUENCY
* EFFECTS, SLEW RATE, QUIESCENT CURRENT, RAIL TO RAIL OUTPUT STAGE, HIGH CLOAD
* EFFECTS, CLASS AB BIAS IN OUTPUT STAGE, OUTPUT CURRENT THROUGH SUPPLIES
* OUTPUT CURRENT LIMITING, OUTPUT CLAMPS TO RAILS, OUTPUT SWING VS OUTPUT CURRENT
* SHUTDOWN, ENABLE TIME, QUIESCENT CURRENT DURING SHUTDOWN
*///////////////////////////////////////////////////////////////////////////
*
* PINOUT ORDER +IN -IN +V -V OUT NSD
* PINOUT ORDER  1   3   6  2  4   5
.SUBCKT opamp 1 3 6 2 4 5
Q20 7 8 9 QLN
R3 10 11 2
R4 12 11 2
R10 8 13 1E3
R11 14 15 1E3
R12 16 6 4
R13 2 17 4
R16 18 19 300
R17 20 21 4
R18 9 22 4
D5 23 6 DD
D6 2 23 DD
D7 24 0 DIN
D8 25 0 DIN
I8 0 24 0.1E-3
I9 0 25 0.1E-3
E2 9 0 2 0 1
E3 21 0 6 0 1
D9 26 0 DVN
D10 27 0 DVN
I10 0 26 0.1E-3
I11 0 27 0.1E-3
E4 28 3 26 27 0.08
G2 29 3 24 25 4E-5
R22 2 6 100E6
E5 30 0 21 0 1
E6 31 0 9 0 1
E7 32 0 33 0 1
R30 30 34 1E5
R31 31 35 1E5
R32 32 36 1E5
R33 0 34 10
R34 0 35 10
R35 0 36 10
E10 37 1 36 0 0.3
R36 38 33 1K
R37 33 39 1K
C6 30 34 1E-12
C7 31 35 2E-12
C8 32 36 200E-12
E11 40 37 35 0 1.2
E12 29 40 34 0 0.8
E14 41 9 21 9 0.5
D11 18 21 DD
D12 9 18 DD
M1 42 43 17 17 NOUT L=3U W=700U
M2 44 45 16 16 POUT L=3U W=1400U
M3 46 46 20 20 POUT L=3U W=1400U
M4 47 48 10 10 PIN L=3U W=220U
M5 49 50 12 12 PIN L=3U W=220U
M8 51 51 22 22 NOUT L=3U W=700U
R43 52 45 100
R44 53 43 100
G3 18 41 54 41 0.2E-3
R45 41 18 60E6
C12 19 23 33E-12
R46 9 47 2E3
R47 9 49 2E3
C13 47 49 1E-12
C14 29 0 3E-12
C15 28 0 3E-12
C16 23 0 0.5E-12
D13 43 7 DD
D14 55 45 DD
Q15 55 15 21 QLP
V18 29 56 1E-3
M19 57 58 21 21 PIN L=6U W=500U
E17 39 0 29 0 1
E18 38 0 3 0 1
M23 58 58 21 21 PIN L=6U W=500U
V21 57 11 0
R59 23 44 20
R60 42 23 20
J1 59 29 59 JNC
J2 59 28 59 JNC
J3 28 60 28 JNC
J4 29 60 29 JNC
C21 29 61 1E-12
E20 62 41 49 47 1
R62 62 54 1E4
C23 54 41 5E-12
G7 63 41 18 41 -1E-3
G8 41 64 18 41 1E-3
G9 41 65 51 9 1E-3
G10 66 41 21 46 1E-3
D17 66 63 DD
D18 64 65 DD
R66 63 66 100E6
R67 65 64 100E6
R68 66 21 1E3
R69 9 65 1E3
E23 21 52 21 66 1
E24 53 9 65 9 1
R70 64 41 1E6
R71 65 41 1E6
R72 41 66 1E6
R73 41 63 1E6
G11 6 2 67 0 -0.1E-3
R75 40 29 1E9
R76 37 40 1E9
R77 1 37 1E9
R78 3 28 1E9
R79 41 54 1E9
R81 52 21 1E9
R82 9 53 1E9
R83 33 0 1E9
G14 58 9 67 0 35E-6
G15 46 51 67 0 220E-6
E48 68 18 67 0 30
E49 69 41 67 0 -30
V49 70 69 15
V50 71 68 -15
R127 68 0 1E12
R128 69 0 1E12
M41 41 71 18 72 PSW L=1.5U W=150U
M42 18 70 41 73 NSW L=1.5U
R129 72 0 1E12
R130 73 0 1E12
M43 74 5 9 9 NEN L=3U W=300U
M44 75 76 9 9 NEN L=3U W=3000U
R131 74 21 1E4
R132 75 77 1E6
V51 77 9 1
M45 78 78 21 21 PEN L=6U W=60U
M46 5 78 21 21 PEN L=6U W=60U
I20 78 9 0.2E-6
C26 5 0 1E-12
E50 67 0 79 9 1
V52 75 79 1.111E-6
R133 9 79 1E12
C32 21 74 15E-12
C33 77 75 3F
I21 6 2 0.2E-6
L1 23 4 4E-9
R150 23 4 400
V78 21 59 0.05
V79 60 9 0.05
R155 46 21 1E8
R156 9 51 1E8
R157 17 43 1E8
R158 16 45 1E8
RG1 0 67 1E9
R159 61 28 100
R225 50 28 64
R226 48 56 64
I40 28 0 15E-9
I47 29 0 15E-9
M48 80 81 2 2 NIQS L=3U W=1000
R297 80 6 8E6
E94 81 2 67 0 2
M49 82 74 9 9 NEN L=3U W=300U
M50 76 82 9 9 NEN L=3U W=300U
R298 82 77 1E4
R299 76 77 1E4
C35 77 82 535P
M51 83 84 85 85 NIN L=3U W=220U
M52 86 87 88 88 NIN L=3U W=220U
R300 89 85 2
R301 89 88 2
R302 83 21 2E3
R303 86 21 2E3
C36 83 86 1E-12
G36 18 41 90 41 0.2E-3
R304 41 90 1E9
C37 90 41 5E-12
E97 91 41 86 83 1
R305 91 90 1E4
V115 92 56 0.25E-3
R306 28 87 64
R307 92 84 64
M53 93 94 95 95 PIN L=6U W=500U
R308 95 57 2E3
V116 21 94 1.0
M54 93 93 9 9 NIN L=3U W=500U
M55 89 93 9 9 NIN L=3U W=500U
E98 21 14 6 16 0.9
E99 13 9 17 2 3
.MODEL DVN D KF=8E-12 IS=1E-16
.MODEL DD D
.MODEL DIN D
.MODEL QLN NPN
.MODEL QLP PNP
.MODEL JNC NJF
.MODEL POUT PMOS KP=200U VTO=-0.7
.MODEL NOUT NMOS KP=200U VTO=0.7
.MODEL PIN PMOS KP=200U VTO=-0.7
.MODEL NIN NMOS KP=200U VTO=0.7
.MODEL NIQS NMOS KP=200U VTO=0.7 IS=1E-18
.MODEL NEN NMOS KP=200U VTO=0.5 IS=1E-18
.MODEL PEN PMOS KP=200U VTO=-0.7 IS=1E-18
.MODEL PSW PMOS KP=200U VTO=-7.5 IS=1E-18
.MODEL NSW NMOS KP=200U VTO=7.5 IS=1E-18
.ENDS opamp
* END LMV981 MODEL
